US04826869
A solution of 19 g (160 mmol) of 1-butyl-2-ethylpyrrole in 300 ml of toluene was treated with 38 g (200 mmol) of m-nitrobenzoyl chloride. The reaction mixture was refluxed under nitrogen atmosphere for 18 hours, cooled and purified by column chromatography on 1 Kg of deactivated alumina (containing 3% water), using hexane-acetone (90:10) as eluant. There were obtained 13.2 g (35%) of 1-butyl-2-(3'-nitrobenzoyl)-5-ethylpyrrole, the title compound, as an oil.

reactant | 1-butyl-2-ethylpyrrole | 160 mmol, 19 g | C(CCC)N1C(=CC=C1)CC | C10H17N
reactant | m-nitrobenzoyl chloride | 200 mmol, 38 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 1-butyl-2-(3'-nitrobenzoyl)-5-ethylpyrrole | 13.2 g, 35% | C(CCC)N1C(=CC=C1CC)C(C1=CC(=CC=C1)[N+](=O)[O-])=O | C17H20N2O3
